US06603005B2
1.2 g of ethyl 4-[3-(3-chloro-6-methoxyquinolin-4-yl)propyl]piperidine-4-carboxylate, 0.51 g of potassium carbonate and 0.61 g of potassium iodide were added, at a temperature in the region of 20° C., with stirring and under an inert atmosphere, to a solution of 0.607 g of (2-chloroethylthio)cyclopentane in 50 cm3 of acetonitrile. After heating for 20 hours at a temperature in the region of 80° C., the reaction mixture was cooled to about 20° C., filtered and concentrated under reduced pressure (1 kPa) at a temperature in the region of 50° C. The residue obtained was purified by chromatography under a nitrogen pressure of 100 kPa, on a column of silica gel (particle size 40-60μ; diameter 3.5 cm), eluting with a mixture of dichloromethane/methanol (98/2 by volume) and collecting 35-cm3 fractions. Fractions 25 to 31 were combined and then concentrated as above. 0.9 g of ethyl 4-[3-(3-chloro-6-methoxyquinolin-4-yl)propyl]-1-[2-(cyclopentylthio)ethyl]piperidine-4-carboxylate was obtained.

reactant | ethyl 4-[3-(3-chloro-6-methoxyquinolin-4-yl)propyl]piperidine-4-carboxylate | 1.2 g | ClC=1C=NC2=CC=C(C=C2C1CCCC1(CCNCC1)C(=O)OCC)OC | C21H27ClN2O3
reactant | potassium carbonate | 0.51 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.61 g | [I-].[K+]
reactant | (2-chloroethylthio)cyclopentane | 0.607 g | ClCCSC1CCCC1 | C7H13ClS
solvent | acetonitrile | 50 cm3 | C(C)#N | C2H3N
product | ethyl 4-[3-(3-chloro-6-methoxyquinolin-4-yl)propyl]-1-[2-(cyclopentylthio)ethyl]piperidine-4-carboxylate | 0.9 g | ClC=1C=NC2=CC=C(C=C2C1CCCC1(CCN(CC1)CCSC1CCCC1)C(=O)OCC)OC | C28H39ClN2O3S
